US04300973
4,5-Dihydroxy-1,3-dimethyl-2-imidazolidinone
Dimethylurea (2 moles, 176 parts) and glyoxal (2 moles, 290 parts of 40% aqueous solution) are mixed and the pH adjusted to 7 with sodium hydroxide. The reaction mixture is stirred at room temperature for several hours and the resulting white solid is filtered, washed with methanol and dried. White crystals, m.p. 140° C., are obtained in fine yield.

reactant | Dimethylurea | 2 moles | C(=O)(NC)NC | C3H8N2O
reactant | glyoxal | 2 moles | C(=O)C=O | C2H2O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 4,5-Dihydroxy-1,3-dimethyl-2-imidazolidinone | OC1N(C(N(C1O)C)=O)C | C5H10N2O3
